US08791129B2
{2-Amino-6-[4,5-difluoro-2-(4-methylpiperazin-1-ylmethyl)phenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone (“A52”)
200 mg of [2-amino-6-(2-chloromethyl-4,5-difluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone are dissolved in 5 ml of acetonitrile. 289 mg of caesium carbonate and 84 μl of methylpiperazine are added, and the mixture is stirred at 80° C. for 16 h. After cooling to 25° C., the mixture is filtered, and the filtrate is evaporated to dryness. The residue is taken up in 5 ml of ethyl acetate, the solution is washed with 5 ml of 2N sodium hydroxide solution, and the combined organic phases are dried over sodium sulfate. After filtration, the filtrate is evaporated to dryness and purified by chromatography (reversed phase HPLC).

reactant | [2-amino-6-(2-chloromethyl-4,5-difluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 200 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CCl | C24H17ClF2N4O
reactant | caesium carbonate | 289 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methylpiperazine | 84 μl | CN1CCNCC1 | C5H12N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | {2-Amino-6-[4,5-difluoro-2-(4-methylpiperazin-1-ylmethyl)phenyl]quinazolin-4-yl}-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CN1CCN(CC1)C | C29H28F2N6O
